US07091227B2
N-(6-Anilino-1,3-benzothiazol-2-yl)-N′-ethylurea
About 150 mg of N-(6-amino-1,3-benzothiazol-2-yl)-N′-ethylurea, and about 285 mg triphenyl bismuthane were charged into about 15 mL dichloromethane. Introduced about 0.1 mL triethylamine and then about 120 mg of copper(II) acetate. The mixture was stirred at RT for about 12–24 hours. The solution was poured into about 60 mL of dilute aqueous acid then stirred for about 1 hour at room temperature. The crude mixture was extracted with dichloromethane and the combined organics were washed with dilute aqueous acid, then water, then dilute aqueous potassium carbonate then dried. The solvent was removed under reduced pressure. The crude mixture was further purified by preparative HPLC. 1H NMR 1.09 (t, 3H), 3.18 (m, 2H), 6.69 (s, 1H), 6.78 (m, 2H), 7.04 (d, 2H), 7.09 (m, 1H), 7.21 (m, 2H), 7.49 (d, 1H), 7.55 (d, 1H), 8.13 (s, 1H), 10.46 (br s, 1H); LC/MS 3.06 min, 313 (M+1), 311 (M−1).

reactant | N-(6-amino-1,3-benzothiazol-2-yl)-N′-ethylurea | 150 mg | NC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H12N4OS
reactant | triphenyl bismuthane | about 285 mg | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | dichloromethane | about 15 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | about 120 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | triethylamine | about 0.1 mL | C(C)N(CC)CC | C6H15N
product | N-(6-Anilino-1,3-benzothiazol-2-yl)-N′-ethylurea | N(C1=CC=CC=C1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C16H16N4OS
